US05691384
Combine 1-(4-benzyloxyphenyl)-1-(4-(4-chlorobutyloxy) phenyl)-2-phenyl ethylene (3.5 g, 7.5 mmol) and chloroform 935 mL). Add N-chlorosuccinimide (1.99 g, 14.9 mmol). Heat a t reflux. After 18 hours, cool the reaction mixture and extract with water, aqueous saturated sodium bicarbonate solution and water. Dry the organic layer over MgSO4, filter, and dry in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 10% ethyl acetate/hexane to give 1-(4-benzyloxyphenyl)-1-(4-(4-chlorobutyloxy)phenyl)-2-chloro-2-phenyl ethylene.

reactant | 1-(4-benzyloxyphenyl)-1-(4-(4-chlorobutyloxy) phenyl)-2-phenyl ethylene | 7.5 mmol, 3.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=CC1=CC=CC=C1)C1=CC=C(C=C1)OCCCCCl | C31H29ClO2
reactant | chloroform | 935 mL | C(Cl)(Cl)Cl | CHCl3
reactant | N-chlorosuccinimide | 14.9 mmol, 1.99 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-(4-benzyloxyphenyl)-1-(4-(4-chlorobutyloxy)phenyl)-2-chloro-2-phenyl ethylene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=C(C1=CC=CC=C1)Cl)C1=CC=C(C=C1)OCCCCCl | C31H28Cl2O2
